US07786108B2
Step 15. Preparation of (S)-tert-butyl 5-[(3,5-bistrifluoromethylbenzyl)cyanoamino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate
Add cyanogen bromide (1.21 mL, 6.04 mmol, 5 M solution in acetonitrile) to a solution of (S)-tert-butyl 5-(3,5-bistrifluoromethylbenzylamino)-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate (2.30 g, 4.03 mmol) and diisopropylethylamine (1.05 mL, 6.04 mmol) in tetrahydrofuran (50 mL) at room temperature under nitrogen and heat the mixture at 50° C. for 12 h. Add silica gel to the cooled mixture and remove the solvents under reduced pressure. Purify the residue by column chromatography on silica gel, eluting with ethyl acetate/hexanes (2:3), to provide the title compound as a colorless oil (2.10 g, >99%), which is used in the next step without further purification: APCI MS m/z 496 (M+H−Boc)+.

reactant | cyanogen bromide | 6.04 mmol, 5 M, 1.21 mL | N#CBr | CBrN
reactant | (S)-tert-butyl 5-(3,5-bistrifluoromethylbenzylamino)-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 4.03 mmol, 2.30 g | FC(C=1C=C(CN[C@@H]2C3=C(N(CCC2)C(=O)OC(C)(C)C)C=C(C(=C3)C)C(F)(F)F)C=C(C1)C(F)(F)F)(F)F | C26H27F9N2O2
reactant | diisopropylethylamine | 6.04 mmol, 1.05 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (S)-tert-butyl 5-[(3,5-bistrifluoromethylbenzyl)cyanoamino]-7-methyl-8-trifluoromethyl-2,3,4,5-tetrahydrobenzo[b]azepine-1-carboxylate | 2.10 g, >99% | FC(C=1C=C(CN([C@@H]2C3=C(N(CCC2)C(=O)OC(C)(C)C)C=C(C(=C3)C)C(F)(F)F)C#N)C=C(C1)C(F)(F)F)(F)F | C27H26F9N3O2
